US06610846B1
A solution triphenylphosphine (164 mg, 0.63 mmol) in methylene chloride (3 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (112 mg, 0.63 mmol) in small portions. The resulting orange reaction mixture was stirred at 0° C. for 20 min and then treated with 3-cyclopentyl-2(R)-(3,4-dichloro-phenyl)-propionic acid (prepared as in a Example 54A, 150 mg, 0.52 mmol). The reaction mixture was stirred at 0° C. for an additional 15 min and then allowed to warm to 25° C. The reaction mixture was then treated with 2-aminothiazole-4-carboxylic acid methyl ester (181 mg, 1.15 mmol). The resulting reaction mixture was stirred at 25° C. for 15 h. The crude reaction mixture was directly purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate) to afford impure (2R)-2-[3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester. The impure product was diluted with ethyl acetate and then washed with a saturated aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo to provide pure (2R)-2-[3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester (92 mg, 41%) as a white solid: mp 143-144° C.; [α]23589=−10.2° (c=0.98, chloroform); EI-HRMS m/e calcd for C19H20Cl2N2O3S (M+) 426.0572, found 426.0562.

reactant | triphenylphosphine | 0.63 mmol, 164 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.63 mmol, 112 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopentyl-2(R)-(3,4-dichloro-phenyl)-propionic acid | C1(CCCC1)C[C@@H](C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H16Cl2O2
reactant | 2-aminothiazole-4-carboxylic acid methyl ester | 1.15 mmol, 181 mg | COC(=O)C=1N=C(SC1)N | C5H6N2O2S
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | (2R)-2-[3-cyclopentyl-2-(3,4-dichloro-phenyl)-propionylamino]-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)Cl)Cl)=O | C19H20Cl2N2O3S
